US04596829
Trifluoroacetic acid (10 ml) was added to a solution of 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.5 g) in methylene chloride (5.0 ml) and anisole (2.5 ml) under ice-cooling, and then the mixture was stirred for an hour at ambient temperature. The resulting solution was dropwise added to diisopropyl ether (100 ml) and then precipitates were collected by filtration. The precipitates were added to a mixture of water and ethyl acetate, and adjusted to pH 7.5 with 10% aqueous solution of sodium hydroxide. The aqueous layer was separated and adjusted to pH 2.2 with 10% aqueous hydrochloric acid to give the precipitates, which were filtered off and dried over phosphorus pentoxide in vacuo to give 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.83 g).

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.5 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C21H22ClN7O7S4
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 2.5 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.83 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCC(=O)O)Cl | C17H14ClN7O7S4
